US06319920B1
To a solution of (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamine (2.38 grams, 11.6 mmol) and 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde (2.47 grams, 11.6 mmol) in dichloroethane (20 ml) was added sodium triacetoxyborohydride (3.67 grams,17.4 mmole). The reaction mixture was stirred for 16 hours at room temperature. The solvent was removed under reduced pressure and the residue was partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic layer was washed with water, dried over potassium carbonate and concentrated under reduced pressure to leave a residue, which was purified by flash chromatography on silica gel using 30% ethyl acetate in hexane. Appropriate fractions were combined and concentrated to give (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]amine as a oil (3.78 g, 82%), M+H 403.

reactant | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]ethylamine | 11.6 mmol, 2.38 grams | O1CCC2=C1C=CC(=C2)C[C@H](C)NCC | C13H19NO
reactant | 1-(tert-butoxycarbonyl)piperidine-4-carboxaldehyde | 11.6 mmol, 2.47 grams | C(C)(C)(C)OC(=O)N1CCC(CC1)C=O | C11H19NO3
reactant | sodium triacetoxyborohydride | 17.4 mmole, 3.67 grams | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | dichloroethane | 20 ml | ClC(C)Cl | C2H4Cl2
product | (S)-N-[2-(2,3-dihydrobenzofuran-5-yl)-1-methylethyl]-N-ethyl-[1-(tert-butoxycarbonyl)piperidin-4-ylmethyl]amine | 3.78 g, 82% | O1CCC2=C1C=CC(=C2)C[C@H](C)N(CC)CC2CCN(CC2)C(=O)OC(C)(C)C | C24H38N2O3
